US05210080
To a solution of 5-formamido-1-methylpyrazole in N,N-dimethylformamide (50 ml) was sodium hydride (1.6 g) under ice-cooling. Then, to the mixture was added methyl iodide (2.5 ml) at the same condition. The mixture was stirred for 1 hour under ice-cooling. To the reaction mixture was added a mixture of ethyl acetate (500 ml) and water (100 ml). The organic layer was separated, and the aqueous layer was extracted with ethyl acetate (50 ml×2). The organic solution was dried over magnesium sulfate. The solvent was distilled off and the residue was subjected to a column chromatography on silica gel using a mixture of ethyl acetate and diisopropyl ether (3:1) as an eluent. Fractions containing the object compound were collected and evaporated in vacuo to give 5-(N-formyl-N-methylamino)-1-methylpyrazole (2.5 g).

reactant | 5-formamido-1-methylpyrazole | C(=O)NC1=CC=NN1C | C5H7N3O
reactant | sodium hydride | 1.6 g | [H-].[Na+]
reactant | methyl iodide | 2.5 ml | CI | CH3I
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 5-(N-formyl-N-methylamino)-1-methylpyrazole | 2.5 g | C(=O)N(C)C1=CC=NN1C | C6H9N3O
